US04695654
7,7-difluoro-1,8-diamino-4-aza-octane
The 1,8-diamino-4-p-toluenesulfonyl-7,7-difluoro-4-aza-octane so obtained is refluxed with 100 mL of 48% aqueous HBr for 20 hours. After cooling to room temperature, the solution is carefully extracted with ether (5×300 mL). After evaporation of the solvent, traces of free HBr are removed by stripping twice with water; on stripping with ethanol, the desired 7,7-difluoro-1,8-diamino-aza-octane crystallizes as the trihydrobromide. Digestion with acetone yields white crystals which are washed with acetone, a small amount of ethanol, and finally with ether: 12.85 g (95%).

reactant | 1,8-diamino-4-p-toluenesulfonyl-7,7-difluoro-4-aza-octane | NCCCN(CCC(CN)(F)F)S(=O)(=O)C1=CC=C(C=C1)C | C14H23F2N3O2S
solvent | HBr | 100 mL | Br | BrH
product | 7,7-difluoro-1,8-diamino-4-aza-octane | FC(CCNCCCN)(CN)F | C7H17F2N3
